US07417169B2
Ethyl 4-benzyloxy-2-ethylbenzoate
Ethyl iodide (0.268 mL) was added to a suspension of 4-benzyloxy-2-ethylbenzoic acid (0.572 g) and potassium carbonate (0.617 g) in N,N-dimethylformamide (5.6 mL) at room temperature with stirring. The mixture was stirred at 50° C. for 1.5 hrs and at room temperature for 13 hrs, and then water was added. The mixture was extracted with ethyl acetate. The organic layer was washed with water, an aqueous solution of sodium chloride and brine successively, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford the title compound (0.635 g).

reactant | Ethyl iodide | 0.268 mL | C(C)I | C2H5I
reactant | 4-benzyloxy-2-ethylbenzoic acid | 0.572 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)CC | C16H16O3
reactant | potassium carbonate | 0.617 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5.6 mL | CN(C=O)C | C3H7NO
product | Ethyl 4-benzyloxy-2-ethylbenzoate | 0.635 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OCC)C=C1)CC | C18H20O3
